US05312815
A solution of 11.7 g (56.7 mmol) of 1,3-dicyclohexylcarbodiimide in 38 ml of dichloromethane was added dropwise to a mixture of 14.0 g (38.0 mmol) of (±)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)-3-methylbutane-1,2-diol, 6.3 g (41.8 mmol of (S)-(+)-2-phenylpropionic acid, 0.47 g (3.8 mmol) of 4-dimethyl-aminopyridine, and 190 ml of dichloromethane with stirring under ice-cooling, followed by stirring for 3 hours. The mixture was warmed to room temperature, and the stirring was continued for 12 hours. Ethyl acetate was added to the reaction mixture, and the precipitated insoluble matter was removed by filtration. The filtrate was washed successively with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried. The solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography using a mixed solvent of hexane and ethyl acetate (10:1) as an eluent. The solvent was removed from each fraction by distillation under reduced pressure to obtain diastereomers (A-1) and (A-2) of 2-(2,4-difluoro-phenyl)-2-hydroxy-3-((4-methoxyphenyl)methylthio)-3-methylbutyl (S)-(+)-2-phenylpropionate in a yield of 9.3 g (49%) and 8.7 g (46%), respectively, as a colorless oily substance.

reactant | 1,3-dicyclohexylcarbodiimide | 56.7 mmol, 11.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)-3-methylbutane-1,2-diol | 38.0 mmol, 14.0 g | FC1=C(C=CC(=C1)F)C(CO)(C(C)(C)SCC1=CC=C(C=C1)OC)O | C19H22F2O3S
reactant | (S)-(+)-2-phenylpropionic acid | 41.8 mmol | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | 2-(2,4-difluoro-phenyl)-2-hydroxy-3-((4-methoxyphenyl)methylthio)-3-methylbutyl (S)-(+)-2-phenylpropionate | C1(=CC=CC=C1)[C@@H](C(=O)OCC(C(C)(C)SCC1=CC=C(C=C1)OC)(O)C1=C(C=C(C=C1)F)F)C | C28H30F2O4S
